US08802659B2
6-(4-tert-butyl-cyclohexyloxy)-8-methyl-naphthalene-2-carbaldehyde (13467-25)
To a mixture of 3-(4-tert-butyl-cyclohexyloxy)-1-methyl-naphthalene (450 mg, 1.5 mmol) in 1,2-dichloroethane (9 mL) was added tin tetrachloride (236 uL, 2 mmol) at 0° C. After stirred at 0° C. for 1 hr, dichloromethyl methyl ether (183 uL, 2 mmol) was added. The solution was stirred at 0° C. for 1 hr and then warmed to room temperature. The mixture was added ice water and stirred for 1 hr, then the dark solution was diluted with dichloromethane and washed with water. The organic phase was washed with sodium bicarbonate aqueous, and dried over MgSO4. The drying agent was filtered off and the solvent was concentrated to dryness to give dark solid product (0.48 g, yield: 97%). ESI-MS: 325.20 (M+H)+.

reactant | 3-(4-tert-butyl-cyclohexyloxy)-1-methyl-naphthalene | 1.5 mmol, 450 mg | C(C)(C)(C)C1CCC(CC1)OC=1C=C(C2=CC=CC=C2C1)C | C21H28O
reactant | tin tetrachloride | 2 mmol, 236 uL | [Sn](Cl)(Cl)(Cl)Cl
reactant | dichloromethyl methyl ether | 2 mmol, 183 uL | COC(Cl)Cl | C2H4Cl2O
solvent | 1,2-dichloroethane | 9 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(4-tert-butyl-cyclohexyloxy)-8-methyl-naphthalene-2-carbaldehyde | 0.48 g, yield: 97% | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=C(C1)C)C=O | C22H28O2
